US08835420B2
2,4-Diamino-6-((1-(6-(3,3-difluoroazetidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile
To a 10 mL vial were added 1-(6-(3,3-difluoroazetidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine (61 mg, 0.23 mmol) in DMF (2 mL) along with 2,4-diamino-6-chloropyrimidine-5-carbonitrile (38.8 mg, 0.229 mmol) and Et3N (0.064 mL, 0.46 mmol). The resulting yellow solution was heated to 90° C. and stirred for 5 hours. The reaction mixture was diluted with EtOAc and washed with saturated NH4Cl (3×). The combined organic layers were dried over MgSO4, filtered, and concentrated. The product was precipitated with ether, filtered, and purified by silica gel column chromatography, eluting with 1:1 EtOAc/hexane to 100% EtOAc to 9:1 EtOAc/MeOH gradient. The resulting yellow foam was further purified by preparative HPLC eluting with 20-40% ACN in water (with 0.05% ammonium bicarbonate). The fractions containing the desired product were combined and lyophilized to give the title compound (racemate) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.29-1.43 (m, 3 H), 3.74-3.85 (m, 3 H), 4.18-4.37 (m, 2 H), 4.41-4.59 (m, 2 H), 5.38-5.52 (m, 1 H), 6.39-6.56 (m, 3 H), 6.57-6.65 (m, 2 H), 6.68-6.76 (m, 1H), 7.39-7.45 (m, 1 H), 7.46-7.53 (m, 1 H); ESI-MS m/z [M+H]+ calc'd for C18H19F2N9, 400.2; found 400.4.

reactant | 1-(6-(3,3-difluoroazetidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine | 0.23 mmol, 61 mg | FC1(CN(C1)C=1C=C2C(=NC1C(C)N)C=CN2C)F | C13H16F2N4
reactant | 2,4-diamino-6-chloropyrimidine-5-carbonitrile | 0.229 mmol, 38.8 mg | NC1=NC(=C(C(=N1)N)C#N)Cl | C5H4ClN5
reactant | Et3N | 0.46 mmol, 0.064 mL | CCN(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2,4-Diamino-6-((1-(6-(3,3-difluoroazetidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)N)C#N)NC(C)C1=C(C=C2C(=N1)C=CN2C)N2CC(C2)(F)F | C18H19F2N9
